### PR TITLE
[Merged by Bors] - feat(Topology): Continuous open maps with irreducible fibers induce bijections between irreducible components

### PR DESCRIPTION
**Pull request by erdOne**
Co-authored-by: Christian Merten

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Irreducible.lean [hunk 1]
```diff
@@ -311,4 +313,80 @@ theorem IsPreirreducible.preimage (ht : IsPreirreducible t) {f : Y → X}
...
 
+section
+
+open Set.Notation
+
+@[stacks 004Z]
+lemma IsPreirreducible.preimage_of_dense_isPreirreducible_fiber
+    {V : Set Y} (hV : IsPreirreducible V)
+    (f : X → Y) (hf' : IsOpenMap f) (hf'' : Dense (V ↓∩ { x | IsPreirreducible (f ⁻¹' {x}) })) :
+    IsPreirreducible (f ⁻¹' V) := by
```
Comment (ADedecker) [inline Mathlib/Topology/Irreducible.lean:324]: Wouldn't this be easier to use if `hf''` was stated as `V` being inside the closure of `V ∩ { x | IsPreirreducible (f ⁻¹' {x}` ? This avoids bringing subtypes into the party, but I don't know enough about the applications to be certain that it's better.

File: Mathlib/Topology/Irreducible.lean [hunk 2]
```diff
@@ -311,4 +313,79 @@ theorem IsPreirreducible.preimage (ht : IsPreirreducible t) {f : Y → X}
   cases hf.injective h₄
   exact ⟨y, h₁, h₂, h₃⟩
 
+section
+
+open Set.Notation
+
+@[stacks 004Z]
+lemma IsPreirreducible.preimage_of_dense_isPreirreducible_fiber
```
Comment (ocfnash) [inline Mathlib/Topology/Irreducible.lean:321]: I wasn't not sure we should keep `dense` in the name given that we dropped it from the statement. OTOH this not such an easy lemma to name, and the alternatives are either very long or more opaque so I think we can leave the name as it stands.

File: Mathlib/Topology/Irreducible.lean [hunk 3]
```diff
@@ -311,4 +313,79 @@ theorem IsPreirreducible.preimage (ht : IsPreirreducible t) {f : Y → X}
...
+  ⟨hV.1.image _ hf₁.continuousOn, fun Z hZ hWZ ↦ by
+    have := hV.2 ⟨(by obtain ⟨x, hx⟩ := hV.1.1; exact ⟨x, hWZ ⟨x, hx, rfl⟩⟩),
+      hZ.2.preimage_of_isPreirreducible_fiber f hf₂ hf₃⟩ (Set.image_subset_iff.mp hWZ)
+    rw [← Set.image_preimage_eq Z hf₄]
+    exact Set.image_mono this⟩
+
+/-- If `f : X → Y` is continuous, open, and has irreducible fibers, then it induces an
+bijection between irreducible components -/
+@[stacks 037A]
+def irreducibleComponentsEquivOfIsPreirreducibleFiber :
```
Comment (ocfnash) [inline Mathlib/Topology/Irreducible.lean:373]: This `def` will need some API to be useful but that can come later.

**Review by ocfnash — APPROVED** [review]
Thanks!

bors merge
